US04140775
In the manner given in Example 1C, 1-(2,3-diethylphenyl)-4-[(4-aminophenyl)methyl]piperazine and 4-chloro-7-(trifluoromethyl)quinoline are reacted together at reflux to give 4-[[4-[[4-(2,3-diethylphenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline.

reactant | 1-(2,3-diethylphenyl)-4-[(4-aminophenyl)methyl]piperazine | C(C)C1=C(C=CC=C1CC)N1CCN(CC1)CC1=CC=C(C=C1)N | C21H29N3
reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
product | 4-[[4-[[4-(2,3-diethylphenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline | C(C)C1=C(C=CC=C1CC)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C31H33F3N4
